US05962479
N4-(1-Ethyl-propyl)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3,4-triamine
A mixture of N4-(1-ethyl-propyl)-6-methyl-3-nitro-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,4-diamine (40 mg, 0.112 mmol) and 8 mg of 10% palladium/carbon (Pd/C) in 20 ml of ethanol was hydrogenated at 50 psi overnight. The mixture was filtered through celite and the filtrate was concentrated to dryness to give adark residue (40 mg). 1H NMR (CDCl3) δ6.88 (s, 2H), 5.97 (s, 1H), 4.32 (d, 1H), 3.28 (m, 1H),2.27 (s, 3H), 2.26 (s, 3H), 2.18 (s, 6H), 1.45-1.75 (m, 4H), 0.93 (t, 6H) ppm. The corresponding di-HCl salt was prepared as a tan solid, mp 213-216° C., 1H NMR(DMSO-d6) δ11.1 (s, 1H), 8.48 (s, 1H), 6.98 (s, 2H), 6.73 (brs, 1H), 6.38 (s, 1H), 3.36 (m, 1H), 2.28 (s, 3H), 2.19 (s, 3H), 2.08 (s, 6H), 1.54 (m, 4H), 0.88 (t, 6H) ppm.

reactant | N4-(1-ethyl-propyl)-6-methyl-3-nitro-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,4-diamine | 0.112 mmol, 40 mg | C(C)C(CC)NC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)[N+](=O)[O-] | C20H28N4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 8 mg | [Pd] | Pd
product | N4-(1-Ethyl-propyl)-6-methyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,3,4-triamine | 40 mg | C(C)C(CC)NC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)N | C20H30N4
